US05861407
Step 1: (Indol-5-yl)-(4-(2-phenylethenyl)-1,2,3,6-tetrahydropyridin-1- yl)methanone
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.77 g, 4.02 mmol) was added to a mixture of indole-5-carboxylic acid (0.45 g, 2.79 mmol), (E)-4-(2-phenylethenyl)-1,2,3,6-tetrahydropyridine hydrochloride (0.59 g, 2.66 mmol), 1-hydroxybenzotriazole hydrate (0.56 g, 3.3 mmol) and triethylamine (1.1 ml, 7.9 mmol) in dimethylformamide (20 ml). The reaction mixture was stirred at room temperature, under nitrogen, overnight then poured into water (200 ml) and extracted with ethyl acetate (2×100 ml). The extracts were washed with 1M hydrochloric acid (2×100 ml), saturated brine (100 ml), combined and dried (MgSO4). The residue after evaporation of the solvent was purified by flash chromatography, eluting with 2:1, 3:1 then 4:1 ethyl acetate/petrol (60°-80°), to afford the title compound as an off-white solid (0.55 g, 63%); δH (CDCl3) 2.50 (2H, br s, tetrahydropyridinyl CH2), 3.76 (2H, v br s, tetrahydropyridinyl CH2), 4.31 (2H, v br s, tetrahydropyridinyl CH2), 5.84 (1H, v br s, tetrahydropyridinyl CH), 6.51 (1H, d, J 16.2 Hz, CH=CHPh), 6.60 (1H, br s, 3'-H), 6.81 (1H, d, J 16.2 Hz, CH=CHPh), 7.20-7.42 (9H, m, ArH), 7.42 (1H, s, ArH), and 8.46 (1H, br s, NH).

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.02 mmol, 0.77 g | Cl.CN(CCCN=C=NCC)C
reactant | indole-5-carboxylic acid | 2.79 mmol, 0.45 g | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | (E)-4-(2-phenylethenyl)-1,2,3,6-tetrahydropyridine hydrochloride | 2.66 mmol, 0.59 g | Cl.C1(=CC=CC=C1)/C=C/C=1CCNCC1
reactant | 1-hydroxybenzotriazole hydrate | 3.3 mmol, 0.56 g | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 7.9 mmol, 1.1 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | (Indol-5-yl)-(4-(2-phenylethenyl)-1,2,3,6-tetrahydropyridin-1- yl)methanone | 0.55 g, 63% | N1C=CC2=CC(=CC=C12)C(=O)N1CCC(=CC1)C=CC1=CC=CC=C1 | C22H20N2O
